US07989438B2
Step 1: 2-(benzyloxy)-6-bromophenol
Tert-butyl amine (2 eq) was dissolved in toluene (1M) and the solution was cooled to −30° C. Br2 (1 eq) was added dropwise maintaining the temperature. The mixture was left stirring for 30 min, then it was cooled to −78° C. A solution of 2-benzyloxyphenol (1 eq) in DCM (6M) was added dropwise. The mixture was allowed to reach RT over the course of 3 h. The mixture was diluted with Et2O and H2O was added. The mixture was washed with 1N HCl, sat. aq. Na2S2O3 and brine. After drying over Na2SO4 all volatiles were evaporated in vacuo. The residue was purified by FC (PE:EtOAc, 9:1). The colourless oil was used without further characterization in the next reaction. (ES−) m/z 277, 279 (M−H)−.

reactant | Tert-butyl amine | 2 eq | C(C)(C)(C)N | C4H11N
reactant | Br2 | 1 eq | BrBr | Br2
reactant | 2-benzyloxyphenol | 1 eq | C(C1=CC=CC=C1)OC1=C(C=CC=C1)O | C13H12O2
solvent | toluene | 1M | C1(=CC=CC=C1)C | C7H8
solvent | DCM | 6M | C(Cl)Cl | CH2Cl2
solvent | Et2O | CCOCC | C4H10O
solvent | H2O | O | H2O
product | 2-(benzyloxy)-6-bromophenol | C(C1=CC=CC=C1)OC1=C(C(=CC=C1)Br)O | C13H11BrO2
